US05061289
Synthesis of 1-methyl-3-methylamino-4-nitropyrazol
100 g (4.20 mmoles) of 3-trifluoroacetylamino-1-methyl-4-nitropyrazol are heated with 2.12 g (16.8 mmoles) methyl iodide in 10 ml absolute acetone to 50° C. 940 mg (16.8 mmoles) powdered potassium hydroxide are then added and the reaction mixture is heated to boiling for 5 minutes. The solvent is distilled off in the rotary evaporator in vacuum and the residue is separated by means of column chromatography using silica gel with ether/toluene (5:1).

reactant | 3-trifluoroacetylamino-1-methyl-4-nitropyrazol | 4.20 mmoles, 100 g | FC(C(=O)NC1=NN(C=C1[N+](=O)[O-])C)(F)F | C6H5F3N4O3
reactant | methyl iodide | 16.8 mmoles, 2.12 g | CI | CH3I
reactant | potassium hydroxide | [OH-].[K+]
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 1-methyl-3-methylamino-4-nitropyrazol | CN1N=C(C(=C1)[N+](=O)[O-])NC | C5H8N4O2
